datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[NH+](CC)CC(=O)[O:21][H:20].O=C([O-])C#CC[N:10]1CCOCC1>>CC[NH+](CC)CC(=O)[O-:21].O=C([O-])C#CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CCCc1cc(Cl)cc(Cl)c1[O:21][H:20].Oc1ccc(-c2ccc([O-:10])cc2)cc1>>CCCc1cc(Cl)cc(Cl)c1[O-:21].Oc1ccc(-c2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CS(=O)(=O)c1ccc(S(=O)(=O)[N:21](Cc2ccccc2)[H:20])cc1.Cc1cc(C)c([O-:10])c([N+](=O)[O-])c1>>CS(=O)(=O)c1ccc(S(=O)(=O)[N-:21]Cc2ccccc2)cc1.Cc1cc(C)c([O:10][H:20])c([N+](=O)[O-])c1 10=20;20,21=21",
"Cc1cnc2c[n:10]cnc2n1.O=C([O-])CC(NC(=O)C(CC(=O)[O-])[NH2+:21][H:20])C(=O)[O-]>>Cc1cnc2c[n+:10]([H:20])cnc2n1.O=C([O-])CC(NC(=O)C(CC(=O)[O-])[NH2:21])C(=O)[O-] 10=20;20,21=21",
"O=C([O-])CCCCCCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])CCCCCCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C(c1ccccc1)N1CC(=O)[N-:10]C1=S.Oc1cccc2cccc([O:21][H:20])c12>>O=C(c1ccccc1)N1CC(=O)[N:10]([H:20])C1=S.Oc1cccc2cccc([O-:21])c12 10=20;20,21=21",
"O=[N+]([O-])c1ccc(C(=S)[NH-:10])cc1.c1ccc(C[N+:21](Cc2ccccc2)(Cc2ccccc2)[H:20])cc1>>O=[N+]([O-])c1ccc(C(=S)[NH:10][H:20])cc1.c1ccc(C[N:21](Cc2ccccc2)Cc2ccccc2)cc1 10=20;20,21=21",
"O=C([O-])CCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)Cc1ccc([O:21][H:20])cc1.C[n+]1cccc(C=C(c2ccccc2)[O-:10])c1>>CC(C)(C)Cc1ccc([O-:21])cc1.C[n+]1cccc(C=C(c2ccccc2)[O:10][H:20])c1 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.CS(=O)(=O)C1=CC(=C(C=C1)[CH-:10]C#N)[N+](=O)[O-]>>[H:20][CH:10](C#N)C1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-].C1COCC[NH:21]1 10=20;20,21=21",
"O=C([C@H]1C[C@@H]1Cl)[O:21][H:20].[O-]c1ncnc2nc[n-:10]c12>>O=C([C@H]1C[C@@H]1Cl)[O-:21].[O-]c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"CCOC(=O)[N-:10]c1ncnc2nc[nH]c12.[NH3+]CCSCC[NH2+:21][H:20]>>CCOC(=O)[N:10](c1ncnc2nc[nH]c12)[H:20].[NH3+]CCSCC[NH2:21] 10=20;20,21=21",
"Cc1cc2c(C)c(C)c3cccnc3c2[n:10]c1.c1ccc2c([O:21][H:20])[nH+]ncc2c1>>Cc1cc2c(C)c(C)c3cccnc3c2[n+:10]([H:20])c1.c1ccc2c([O-:21])[nH+]ncc2c1 10=20;20,21=21",
"CCNC(=O)C1CCCC[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCNC(=O)C1CCCC[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[N:10](CC)Cc1ccccc1.[NH3+]C(Cc1nc(I)[n:21]([H:20])c1I)C(=O)[O-]>>CC[N+:10](CC)(Cc1ccccc1)[H:20].[NH3+]C(Cc1nc(I)[n-:21]c1I)C(=O)[O-] 10=20;20,21=21",
"CC/C(C)=C/C(=O)[O:21][H:20].O=C(C(O)(c1ccccc1)c1ccccc1)[O-:10]>>CC/C(C)=C/C(=O)[O-:21].O=C(C(O)(c1ccccc1)c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC1CN(C)CC[N:10]1C.c1ccc2cc([S:21][H:20])ncc2c1>>CC1CN(C)CC[N+:10]1(C)[H:20].c1ccc2cc([S-:21])ncc2c1 10=20;20,21=21",
"C=CCC1(CC=C)SC(=O)[N-:10]C1=O.Oc1c(I)cc(I)c2ccc[n+:21]([H:20])c12>>C=CCC1(CC=C)SC(=O)[N:10]([H:20])C1=O.Oc1c(I)cc(I)c2ccc[n:21]c12 10=20;20,21=21",
"Cc1cc(N)ccc1-c1ccc([NH2:10])cc1C.O=C(c1cccc(Cl)c1)[O:21][H:20]>>Cc1cc(N)ccc1-c1ccc([NH2+:10][H:20])cc1C.O=C(c1cccc(Cl)c1)[O-:21] 10=20;20,21=21",
"COC(=O)/C(=N/[O:21][H:20])c1ccccc1.c1cc2[nH]c[n:10]c2cn1>>COC(=O)/C(=N/[O-:21])c1ccccc1.c1cc2[nH]c[n+:10]([H:20])c2cn1 10=20;20,21=21",
"NCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C([O-])C(Cc1nc[nH]c1I)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C(Cc1nc[nH]c1I)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH:10][C@H]1CCCC[C@@H]1O.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10]([C@H]1CCCC[C@@H]1O)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"[NH3+]C(c1cccc([O-:10])c1[O-])P(=O)([O-])[O-].[NH3+]c1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Br)cc3)o2)cc1>>[NH3+]C(c1cccc([O:10][H:20])c1[O-])P(=O)([O-])[O-].[NH3+]c1ccc(-c2c[n:21]c(-c3ccc(Br)cc3)o2)cc1 10=20;20,21=21",
"CC(C[N+:21](C)(C)[H:20])C(C#N)(c1ccccc1)c1ccccc1.O=C(CCCc1c[nH]c[nH+]1)[O-:10]>>CC(C[N:21](C)C)C(C#N)(c1ccccc1)c1ccccc1.O=C(CCCc1c[nH]c[nH+]1)[O:10][H:20] 10=20;20,21=21",
"Cc1c2cccc(O)c2nc[n+:21]1[H:20].O=[N+]([O-])c1ccccc1/C=N\[O-:10]>>Cc1c2cccc(O)c2nc[n:21]1.O=[N+]([O-])c1ccccc1/C=N\[O:10][H:20] 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"C[N+:21](C)(c1cccc([N+](=O)[O-])c1)[H:20].C[N:10](C)CC[Se-]>>C[N+:10](C)(CC[Se-])[H:20].C[N:21](C)c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"Cc1cc2ccccc2[n+:21]([H:20])c1.[NH3+]c1ccc(-c2ccc([NH2:10])cc2)cc1>>Cc1cc2ccccc2[n:21]c1.[NH3+]c1ccc(-c2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"Cc1ccc(O)cc1C(=O)[O:21][H:20].Nc1cccc2ccc3c(ccc[n:10]3)c12>>Cc1ccc(O)cc1C(=O)[O-:21].Nc1cccc2ccc3c(ccc[n+:10]3[H:20])c12 10=20;20,21=21",
"N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O-:10])ccc21.O=C(c1cccc(I)c1)[O:21][H:20]>>N#CC1=C(c2nc3ccccc3o2)C(=O)Oc2cc([O:10][H:20])ccc21.O=C(c1cccc(I)c1)[O-:21] 10=20;20,21=21",
"CCCCCCCCC[NH:10]Cc1ccc(C)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
